US07582782B2
b) ((1S,2S,4S)-4-Benzylcarbamoyl-2-(tert-butyl-dimethyl-silanyloxy)-1-{(S)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl-butyl}-5-methyl-hexyl)-carbamic acid tert-butyl ester
HBTU (400 mg, 1.03 mmol, 1.2 equiv.) is added to a solution of (2S,4S,5S,7S)-5-tert-butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-2-isopropyl-7-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-8-methyl-nonanoic acid (575 mg, 0.86 mmol, 1.0 equiv.) in acetonitrile (CH3CN) (15 mL) and DMF (1 mL) at 0° C. After 5 minutes, a solution of benzylamine (94 μL, 0.86 mmol, 1.0 equiv.) and Net3 (1.2 mL, 8.6 mmol, 10 equiv.) in CH3CN (3 mL) is added and the reaction mixture is stirred at room temperature for 5 minutes. For workup EtOAc is added and the organic layer is washed with 1 N HCl, a saturated solution of sodium bicarbonate (NaHCO3) and brine. Drying (Na2SO4) of the organic phase and evaporation of the solvent affords the crude product which is purified by flash column chromatography [50 g SiO2, hexane:EtOAc (4:1)] to afford the desired product as a colorless foam. MS (LC-MS): 780.4 [M+Na]+; Rf [hexane:EtOAc (1:1)]: 0.65 minutes.

reactant | HBTU | 1.03 mmol, 400 mg, 1.2 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4S,5S,7S)-5-tert-butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-2-isopropyl-7-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-8-methyl-nonanoic acid | 0.86 mmol, 575 mg, 1.0 equiv. | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)O)C(C)C)O[Si](C)(C)C(C)(C)C)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C36H65NO8Si
reactant | benzylamine | 0.86 mmol, 94 μL, 1.0 equiv. | C(C1=CC=CC=C1)N | C7H9N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | ((1S,2S,4S)-4-Benzylcarbamoyl-2-(tert-butyl-dimethyl-silanyloxy)-1-{(S)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl-butyl}-5-methyl-hexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]([C@H](C[C@@H](C(C)C)C(NCC1=CC=CC=C1)=O)O[Si](C)(C)C(C)(C)C)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)=O | C43H72N2O7Si
